US06515124B2
To a solution of 2-chlorothiazole (300 mg, 2.51 mmol) in distilled tetrahydrofuran (4 mL) at −78° C. was added n-butyllithium (2.5M solution in hexane, 2.58 mmol, 1.03 mL) slowly dropwise. After stirring 10 min at −78° C., N,N-dimethylformamide (2.76 mmol, 0.213 mL) was added and the reaction was warmed slowly to room temperature over 2 h. The reaction mixture was quenched with water (80 μL) and stirred for 24 h at room temperature. After the volatiles were removed under reduced pressure, the residue was diluted with water (25 mL) and extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (25 mL), dried (MgSO4), filtered, concentrated under reduced pressure. The residue was flash chromatographed (silica gel, 50% ethyl acetate in petroleum ether) to yield 2-(dimethylamino)thiazole-5-carboxaldehyde (170 mg, 43% yield) as an orange solid.

reactant | 2-chlorothiazole | 2.51 mmol, 300 mg | ClC=1SC=CN1 | C3H2ClNS
reactant | n-butyllithium | 2.58 mmol, 2.5M, 1.03 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 2.76 mmol, 0.213 mL | CN(C=O)C | C3H7NO
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-(dimethylamino)thiazole-5-carboxaldehyde | 170 mg, 43% yield | CN(C=1SC(=CN1)C=O)C | C6H8N2OS
